US06365594B1
3-Bromo-4,5-epoxy-14-hydroxy-17-methylmorphinan-6-one
1.1 g (3.8 mmol) of 4,5-epoxy-14-hydroxy-17-methylmorphinan-6-one in 50 ml of glacial AcOH were treated with 3.8 ml of a 1M solution of Br2 in AcOH as described in Preparation 5, yielding 1.1 g of the title product.

reactant | 4,5-epoxy-14-hydroxy-17-methylmorphinan-6-one | 3.8 mmol, 1.1 g | O1C2=CC=CC=3C[C@@H]4[C@@]5(CCC(C1[C@@]5(C23)CCN4C)=O)O | C17H19NO3
reactant | Br2 | BrBr | Br2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 3-Bromo-4,5-epoxy-14-hydroxy-17-methylmorphinan-6-one | 1.1 g | BrC=1C=CC=2C[C@@H]3[C@@]4(CCC(C5[C@@]4(C2C1O5)CCN3C)=O)O | C17H18BrNO3
